US08754050B2
Step 1: Preparation of methyl 2-(2-((tert-butoxycarbonylamino)methyl)thiazole-4-carboxamido)-2-methylpropanoate
To a round bottom flask with 50 mL methylene chloride was added 2-((tert-butoxycarbonylamino)methyl)thiazole-4-carboxylic acid (2.0 g, 7.74 mmole) and methyl 2-amino-2-methylpropanoate hydrochloride salt (1.25 g, 8.13 mmole). To the mixture, triethylamine (5.4 mL, 38.7 mmole) was then added, followed by 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (2.97 g, 15.5 mmole) and hydroxybenzotriazole (2.09 g, 15.5 mmole). The resulting mixture was stirred at room temperature overnight. The mixture was then diluted with methylene chloride. The mixture was then washed with water and the aqueous layer was extracted with methylene chloride. The combined organic layer was then dried over Na2SO4 and filtered. The filtrate was concentrated and purified by silica gel column chromatography eluting with 1:1 EtOAc/hexane to provide the desired product (2.40 g, 87% yield).

reactant | 2-((tert-butoxycarbonylamino)methyl)thiazole-4-carboxylic acid | 7.74 mmole, 2.0 g | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)C(=O)O | C10H14N2O4S
reactant | methyl 2-amino-2-methylpropanoate hydrochloride salt | 8.13 mmole, 1.25 g | Cl.NC(C(=O)OC)(C)C
reactant | triethylamine | 38.7 mmole, 5.4 mL | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 15.5 mmole, 2.97 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydroxybenzotriazole | 15.5 mmole, 2.09 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(2-((tert-butoxycarbonylamino)methyl)thiazole-4-carboxamido)-2-methylpropanoate | 2.40 g, 87% yield | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)C(=O)NC(C(=O)OC)(C)C | C15H23N3O5S
